US06800637B2
1-Methyl-3-{3-[methyl-(8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-amino]-propyl}-1H-indole-5-carbonitrile
To a solution of (2S)-1-methyl-3-{3-[(8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-amino]-proyl}-1H-indole-5-carbonitrile (0.1 g, 0.23 mmol) and formaldehyde (37 wt. % in water, 0.19 g, 2.3 mmol) in methanol (20 mL) was added sodium cyanoborohydride (0.026 g, 0.41 mmol) and acetic acid (0.027 mL, 0.46 mmol) at room temperature. The mixture was stirred at room temperature under nitrogen for 2 hours, then quenched with 1N NaOH (5 mL). The mixture was extracted with methylene chloride (3×50 mL). The organic layer was washed with water (3×50 mL), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. The crude oil was column chromatographed on silica gel (5% methanol-ethyl acetate). The product-containing fractions were concentrated in vacuum to give 0.1 g of the (S)-enantiomer of the title compound as a brown oil. The dihydrochloride salt was prepared in ethyl acetate as a yellow solid (decomposed at 165° C.).

reactant | (2S)-1-methyl-3-{3-[(8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-amino]-proyl}-1H-indole-5-carbonitrile | 0.23 mmol, 0.1 g | CN1C=C(C2=CC(=CC=C12)C#N)CCCNC[C@H]1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C26H26N4O2
reactant | formaldehyde | 2.3 mmol, 0.19 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.41 mmol, 0.026 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.46 mmol, 0.027 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 20 mL | CO | CH4O
product | 1-Methyl-3-{3-[methyl-(8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-amino]-propyl}-1H-indole-5-carbonitrile | CN1C=C(C2=CC(=CC=C12)C#N)CCCN(CC1COC=2C(=C3C=CC(=NC3=CC2)C)O1)C | C27H28N4O2
